US09216980B2
Preparation of 3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 3-bromo-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (1.41 g, 3.5 mmol), bis(pinacolato)diboron (980 mg, 3.85 mmol), potassium acetate (1.0 g, 10.5 mmol) and 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (140 mg, 0.175 mmol) in dioxane (18 mL) and DMSO (2 mL) was heated at 120° C., in a sealed vial and under argon, for 18 h. The reaction mixture was allowed to cool to ambient temperature then quenched by the addition of saturated aqueous sodium bicarbonate solution (200 mL) and extracted into ethyl acetate (200 mL). The organic layer was dried over sodium sulfate, filtered and evaporated in vacuo and the resultant residue was purified by flash chromatography (silica, 80 g column, ISCO, 0-50% ethyl acetate in cyclohexane) to afford the title compound as a white crystalline solid (1.32 g, 84%). 1H NMR (CDCl3, 300 MHz): 9.16 (d, J=1.0 Hz, 1H), 9.05 (d, J=1.6 Hz, 1H), 8.86 (d, J=1.6 Hz, 1H), 8.37 (d, J=1.0 Hz, 1H), 6.03 (s, 2H), 3.61-3.54 (m, 2H), 1.41 (s, 12H), 0.94-0.87 (m, 2H), −0.10 (s, 9H). LCMS (Method B): RT=5.0 min, M+H+=451.

reactant | 3-bromo-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 3.5 mmol, 1.41 g | BrC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H19BrN4OSi
reactant | bis(pinacolato)diboron | 3.85 mmol, 980 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 10.5 mmol, 1.0 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.175 mmol, 140 mg | Cl[Pd]Cl
product | 3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9-(2-trimethylsilanylethoxymethyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 1.32 g, 84% | CC1(OB(OC1(C)C)C1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1)C | C23H31BN4O3Si
